US07465736B2
Intermediate 14: (4-ethyl-1,3-thiazol-2-yl)acetonitrile
To a solution of 1-bromo-2-butanone (10.3 g, 57.98 mmol) in EtOH (200 mL) were added 2-cyanothioacetamide (5.8 g, 57.98 mmol) and triethylamine (1.59 mL, 11.6 mmol) and the solution was stirred under reflux for 1 h. After cooling down to r.t., the solvent was removed. The orange solid obtained was washed with AcOEt then cyclohexane, and recrystallized from EtOH to afford 7.2 g of the title compound as orange needles (Y=81%).

reactant | 1-bromo-2-butanone | 57.98 mmol, 10.3 g | BrCC(CC)=O | C4H7BrO
reactant | 2-cyanothioacetamide | 57.98 mmol, 5.8 g | C(#N)CC(=S)N | C3H4N2S
reactant | triethylamine | 11.6 mmol, 1.59 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 200 mL | CCO | C2H6O
product | (4-ethyl-1,3-thiazol-2-yl)acetonitrile | 7.2 g, 81% | C(C)C=1N=C(SC1)CC#N | C7H8N2S
